US06534546B1
Synthesis of N-(3-chloro-4-hydroxymethylphenyl)carbamic acid t-butyl ester
Water was added to 4-amino-2-chlorobenzyl alcohol (1.0125 g) and, after addition of sodium hydroxide (283 mg) and di-t-butyl dicarbonate (1.543 g) at room temperature, the mixture was stirred overnight at room temperature. Ethyl acetate was added to the reaction mixture and the organic layer was washed with water once, dried with anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent, n-hexane:ethyl acetate=3:1) to give 1.0576 g of the titled compound (yield, 64%).

reactant | Water | O | H2O
reactant | 4-amino-2-chlorobenzyl alcohol | 1.0125 g | NC1=CC(=C(CO)C=C1)Cl | C7H8ClNO
reactant | sodium hydroxide | 283 mg | [OH-].[Na+]
reactant | di-t-butyl dicarbonate | 1.543 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-chloro-4-hydroxymethylphenyl)carbamic acid t-butyl ester | 1.0576 g, 64% | C(C)(C)(C)OC(NC1=CC(=C(C=C1)CO)Cl)=O | C12H16ClNO3
